US08835472B2
Biphenyl-4-yl-propynoic acid
5.00 g (13.0 mmol) 3-biphenyl-4-yl-2,3-dibromo-propionic acid are added to 40 mL tBuOH. Over a period of 25 min 5.80 g (52.1 mmol) KOtBu are added in several portions while keeping the temperature below 35° C. Then the reaction mixture is stirred at 40° C. for 2 h. Again 1.40 g (12.5 mmol) potassium tert-butoxide are added and the mixture is stirred for additional 2 h at 40° C. Then the mixture is allowed to cool to r.t. and poured onto icewater/concentrated HCl. The precipitate is filtered and partitioned between EtOAc and water. The organic layer is washed with water, dried and the solvent is removed in vacuo. The crude product is triturated with PE, filtered and dried at 80° C. in vacuo.

reactant | 3-biphenyl-4-yl-2,3-dibromo-propionic acid | 13.0 mmol, 5.00 g | C1(=CC=C(C=C1)C(C(C(=O)O)Br)Br)C1=CC=CC=C1 | C15H12Br2O2
reactant | KOtBu | 52.1 mmol, 5.80 g | CC(C)(C)[O-].[K+]
reactant | potassium tert-butoxide | 12.5 mmol, 1.40 g | CC(C)([O-])C.[K+]
reactant | HCl | Cl | ClH
solvent | tBuOH | 40 mL | CC(C)(C)O | C4H10O
product | Biphenyl-4-yl-propynoic acid | C1(=CC=C(C=C1)C#CC(=O)O)C1=CC=CC=C1 | C15H10O2
